US05627202
Step B: Preparation of Diethyl 1-acetyl-3-ethylpyrrolidine-2,2-dicarboxylate
To a solution of diethyl-1-acetyl-5-hydroxy-3-ethylpyrrolidine-2,2-dicarboxylate (287 g, 0.95 mol) and triethylsilane (228 mL, 1.43 mol) in CH2Cl2 (3 L) under argon was added trifluoroacetic acid (735 mL, 9.53 mol) dropwise with stirring while maintaining the internal temperature at 25° C. by means of an ice bath. After stirring for 3 h at 23° C., the solution was concentrated in vacuo, the residue diluted with CH2Cl2 (1.5 L), then treated with H2O (1 L) and solid Na2CO3 with vigorous stirring until the solution was basic. The organic layer was separated, dried (Na2SO4), filtered, then concentrated to give the title compound as a yellow oil which was used without further purification.

reactant | diethyl-1-acetyl-5-hydroxy-3-ethylpyrrolidine-2,2-dicarboxylate | 0.95 mol, 287 g | C(C)OC(=O)C1(N(C(CC1CC)O)C(C)=O)C(=O)OCC | C14H23NO6
reactant | triethylsilane | 1.43 mol, 228 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 9.53 mol, 735 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3 L | C(Cl)Cl | CH2Cl2
product | Diethyl 1-acetyl-3-ethylpyrrolidine-2,2-dicarboxylate | C(C)(=O)N1C(C(CC1)CC)(C(=O)OCC)C(=O)OCC | C14H23NO5
